US07727979B2
2-bromo-6-phenyl-cycloheptanone (Starting Product for Example C-72)
The bromination of 3-phenylcycloheptanone takes place in a manner similar to that described above for the preparation of 2-bromo-4-isopropyl-cyclohexanone. The title compound is reacted as a crude product without further characterization.

reactant | 3-phenylcycloheptanone | C1(=CC=CC=C1)C1CC(CCCC1)=O | C13H16O
reactant | 2-bromo-4-isopropyl-cyclohexanone | BrC1C(CCC(C1)C(C)C)=O | C9H15BrO
product | 2-bromo-6-phenyl-cycloheptanone | BrC1C(CC(CCC1)C1=CC=CC=C1)=O | C13H15BrO
